US04898871
The procedure is as in Example 22, but starting with N-(2-methylpropyl)glycolamide (8.9 g) in tetrahydrofuran (357 cc), an oily suspension (50% by weight; 3.3 g) of sodium hydride and 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (15 g). After recrystallization in ethanol, [2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1isoindolinyloxy]-N-(2-methylpropyl)acetamide (10.1 g), m.p. 146° C., is obtained.

reactant | N-(2-methylpropyl)glycolamide | 8.9 g | CC(CNC(CO)=O)C | C6H13NO2
reactant | sodium hydride | 3.3 g | [H-].[Na+]
reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 15 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
solvent | tetrahydrofuran | 357 cc | O1CCCC1 | C4H8O
product | [2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1isoindolinyloxy]-N-(2-methylpropyl)acetamide | 10.1 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)OCC(=O)NCC(C)C | C22H21ClN4O3
